US04664693
Diethyl malonate (7.16 g) was added to a solution of sodium metal (1 equiv) in anhydrous absolute ethanol (40 ml). 1-(Benzo[b]thien-5-yl)but-1-en-3-one (8.7 g) was added to the solution and the mixture was heated under reflux for 2 hr. An aqueous solution of potassium hydroxide (5.3 g in 50 ml water) was added and the mixture was heated under reflux for a further 5 hr. The hot mixture was acidified by dropwise addition of a dilute aqueous hydrochloric acid solution. After cooling, the product was filtered off and dried by azeotropic distillation with toluene to give 3-hydroxy-5-(benzo[b]thien-5-yl)cyclohex-2-en-1-one as a yellow solid, mp 192° C.

reactant | Diethyl malonate | 7.16 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium | 1 equiv | [Na] | Na
reactant | 1-(Benzo[b]thien-5-yl)but-1-en-3-one | 8.7 g | S1C2=C(C=C1)C=C(C=C2)C=CC(C)=O | C12H10OS
reactant | potassium hydroxide | 50 ml, 5.3 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-hydroxy-5-(benzo[b]thien-5-yl)cyclohex-2-en-1-one | OC1=CC(CC(C1)C1=CC2=C(SC=C2)C=C1)=O | C14H12O2S
